US08389511B2
tert-Butyl (2R,5R)-2-(2-ethoxy-2-oxoethyl)-5-(isopropylamino)piperidine-1-carboxylate
To a solution of ethyl [(2R,5R)-5-(isopropylamino)-1-(4-methoxybenzyl)piperidin-2-yl]acetate (10.0 g) in ethanol (200 mL) were added Boc2O (14.2 g) and 10% palladium carbon (20 g), and the mixture was stirred at room temperature for 3 hours under hydrogen atmosphere. Boc2O (7.1 g) was added thereto, and the mixture was further stirred for 3 hours. The insoluble materials were removed by filtration, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography to give the title compound (6.4 g) as a colorless oil.

reactant | ethyl [(2R,5R)-5-(isopropylamino)-1-(4-methoxybenzyl)piperidin-2-yl]acetate | 10.0 g | C(C)(C)N[C@@H]1CC[C@@H](N(C1)CC1=CC=C(C=C1)OC)CC(=O)OCC | C20H32N2O3
reactant | Boc2O | 14.2 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Boc2O | 7.1 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium carbon | 20 g | [C].[Pd]
product | tert-Butyl (2R,5R)-2-(2-ethoxy-2-oxoethyl)-5-(isopropylamino)piperidine-1-carboxylate | 6.4 g | C(C)OC(C[C@@H]1N(C[C@@H](CC1)NC(C)C)C(=O)OC(C)(C)C)=O | C17H32N2O4
